US06660744B1
A mixture of phenyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-methanone (Intermediate AL) (0.241 g, 0.00078 mol), cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (Intermediate AC) (0.30 g, 0.00068 mol), tetrakis(triphenyl-phosphine)palladium (0.047 g, 0.000041 mol) and sodium carbonate (0.18 g, 0.0017 mol) was heated in a mixture of ethylene glycol dimethyl ether (10 mL) and water (5 mL) at 80° C. for 16 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was partitioned between saturated aqueous sodium bicarbonate solution (50 mL) and ethyl acetate, the organic layer separated and the aqueous layer further extracted with ethyl acetate twice. The combined organic extracts were dried over magnesium sulfate. The solvents were evaporated under the reduced pressure to leave a tan solid which was purified by flash column chromatography on silica using dichloromethane/triethylamine/methanol (95:4:1) as a mobile phase to give cis-{4-[4-amino-1-(4-(4-methylpiperazino)cyclohexy)]-1H-pyrazolo[3,4-d]pyrimidin-3-yl-]-phenyl}(phenyl)methanone as a white solid (0.195 g, 0.0004 mol). It was dissolved in refluxing ethanol (17 mL) and a preheated solution of maleic acid (0.137 g, 0.0018 mol) was added. The mixture was refluxed for 10 min, cooled to ambient temperature and the precipitate collected by filtration, washed with ethyl acetate and dried to give cis-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)(phenyl)methanone dimaletate as a white solid (0.221 g, 0.0003 mol): 1H NMR (DMSO-d6, 400 MHz) 8.28 (s, 1H), 7.90 (d, 2H), 7.83 (m, 4H), 7.73 (t, 1H), 7.61 (m, 2H), 6.15 (s, 4H), 4.88 (m, 1H), 3.1 (br, 9H), 2.71 (s, 3H), 2.28 (m, 2H), 2.07 (m, 2H), 1.74 (m, 4H); RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-85% acetonitrile—0.1M ammonium acetate over 20 min, 1 mL/min) Rt 12.63 min. MS: MH+496.

reactant | phenyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-methanone | 0.00078 mol, 0.241 g | C1(=CC=CC=C1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H21BO3
reactant | cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00068 mol, 0.30 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate | 0.0017 mol, 0.18 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | maleic acid | 0.0018 mol, 0.137 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | ethylene glycol dimethyl ether | 10 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
solvent | ethanol | 17 mL | C(C)O | C2H6O
product | cis-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)(phenyl)methanone | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)C(=O)C2=CC=CC=C2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C29H33N7O
